US05232924
Synthesis of 3-[2-(4-Methylbenzenesulfonyloxy)ethyl]-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione
The entitled compound was prepared as a yellowish solid from 3-(2-hydroxyethyl)-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione prepared in Reference Example 27 and 4-methylbenzenesulfonyl chloride in the manner described in Reference Example 33.

reactant | 3-(2-hydroxyethyl)-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione | OCCN1C(N=C2N(C1=O)CCCC2)=O | C9H13N3O3
reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 3-[2-(4-Methylbenzenesulfonyloxy)ethyl]-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione | CC1=CC=C(C=C1)S(=O)(=O)OCCN1C(N=C2N(C1=O)CCCC2)=O | C16H19N3O5S
